US06265411B1
Sodium hydride (95 mg of a 60% suspension in paraffin oil, 2.4 mmol) was added to a solution of 5-fluoro-1-diethoxymethyloxindole (520 mg, 2.05 mmol) and 4-chloro-6-methoxy-7-(2-methoxyethoxy)quinazoline (220 mg, 0.82 mmol), (prepared as described for the starting material in Example 2), in THF (20 ml). After stirring for 2 hours at ambient temperature, the volatiles were removed by evaporation. The residue was partitioned beween methylene chloride and water, the organic layer was washed with water and then brine, dried (MgSO4) and the solvent evaporated. The residue was purified by flash chromatography using an increasingly polar mixture of methylene chloride/ethyl acetate (100/0 to 0/100) as eluent to give 4-(5-fluoro-1-diethoxymethyloxindol-3-yl)-6-methoxy-7-(2-methoxyethoxy)quinazoline (300 mg, 68%) as a yellow solid.

reactant | Sodium hydride | [H-].[Na+]
reactant | 5-fluoro-1-diethoxymethyloxindole | 2.05 mmol, 520 mg | FC=1C=C2CC(N(C2=CC1)C(OCC)OCC)=O | C13H16FNO3
reactant | 4-chloro-6-methoxy-7-(2-methoxyethoxy)quinazoline | 0.82 mmol, 220 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCOC | C12H13ClN2O3
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 4-(5-fluoro-1-diethoxymethyloxindol-3-yl)-6-methoxy-7-(2-methoxyethoxy)quinazoline | 300 mg, 68% | FC=1C=C2C(C(N(C2=CC1)C(OCC)OCC)=O)C1=NC=NC2=CC(=C(C=C12)OC)OCCOC | C25H28FN3O6
